US04254122
A mixture of 3-(3-trifluoromethylphenyl)-6-n-butylaminotetrahydro-1,3,5-triazine-2,4-dione (4.0 g.) and acetic anhydride (40 ml.) was heated under reflux for 2 hours. The mixture was then distilled at atmospheric pressure over 2 hours, fresh acetic anhydride being added to maintain the original volume. The mixture was then distilled at atmospheric pressure so that the final volume was about 10 ml. Ether (60 ml.) and petroleum ether (b.p. 40°-60° C.) [hereinafter referred to as "40-60 petrol"] (20 ml.) was then added. The white solid which precipitated was washed with ether (2×30 ml.) and air dried to give 3-(3-trifluoromethylphenyl)-6-[(N-acetyl)-n-butylamino]-tetrahydro-1,3,5-triazine-2,4-dione (3.7 g., 66%), m.p. 146°-148° C.

reactant | 3-(3-trifluoromethylphenyl)-6-n-butylaminotetrahydro-1,3,5-triazine-2,4-dione | 4.0 g | FC(C=1C=C(C=CC1)N1C(NC(NC1=O)NCCCC)=O)(F)F | C14H17F3N4O2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(3-trifluoromethylphenyl)-6-[(N-acetyl)-n-butylamino]-tetrahydro-1,3,5-triazine-2,4-dione | 3.7 g, 66% | FC(C=1C=C(C=CC1)N1C(NC(NC1=O)N(C(C)=O)CCCC)=O)(F)F | C16H19F3N4O3
